US07576094B2
To a stirred solution of 6-hydroxy-5,7,8-trimethyl-2-cyclobutyl-chromene-3-carbaldehyde (250 mg) in 10 mL of THF and 1 mL of AcOH was added NaCNBH3 (305 mg). The reaction mixture was allowed to stir at room temperature for 6 h. The mixture was concentrated and the residue was purified by flash chromatography eluted with 30% ethyl acetate in hexane to give 135 mg of 3-(hydroxymethyl)-5,7,8-trimethylspiro[chromene-2,1′-cyclobutan]-6-ol as a light yellow solid. 1H-NMR (300 MHz, MeOD) δ=6.52 (s, 1H, C═CH), 4.35 (s, 1H), 2.36 (m, 4H), 2.20-1.75 (m, 11H) ppm. 13C-NMR (75 MHz, MeOD) δ=146.5, 144.5, 137.6, 124.9, 122.2, 119.3, 118.4, 117.0, 80.7, 62.0, 32.7, 14.3, 12.2, 11.2, 10.7 ppm. MS:(m/z)=243.2 (M−18+), 283.1 (M+Na+).

reactant | 6-hydroxy-5,7,8-trimethyl-2-cyclobutyl-chromene-3-carbaldehyde | 250 mg | OC=1C(=C2C=C(C(OC2=C(C1C)C)C1CCC1)C=O)C | C17H20O3
reactant | NaCNBH3 | 305 mg | [BH3-]C#N.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | AcOH | 1 mL | CC(=O)O | C2H4O2
product | 3-(hydroxymethyl)-5,7,8-trimethylspiro[chromene-2,1′-cyclobutan]-6-ol | 135 mg | OCC1=CC2=C(C(=C(C(=C2OC12CCC2)C)C)O)C | C16H20O3
